US07662825B2
b) 2,3-Dichloro-N-[3-(2-furanylmethoxy)-5-methyl-2-pyrazinyl]benzenesulphonamide
Sodium hydride (0.04 g of a 60% dispersion in oil) was added to fi rylalcohol (0.034 g) in 1,2-dimethoxyethane (1 mL). After 5 minutes N-(3-Bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide (Example 20 part a) (0.1 g) was added and the mixture heated at 40° C. After 16 h, 5% aqueous citric acid (10 mL) was added and the mixture extracted with ethyl acetate (2×50 mL). The combined extracts were washed with brine, dried (MgSO4) and the solvent evaporated. Chromatography on silica gel eluting with dichloromethane gave the title compound as a white solid (0.02 g)

reactant | Sodium hydride | [H-].[Na+]
reactant | N-(3-Bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide | BrC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C11H8BrCl2N3O2S
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
product | 2,3-Dichloro-N-[3-(2-furanylmethoxy)-5-methyl-2-pyrazinyl]benzenesulphonamide | 0.02 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OCC=1OC=CC1)C | C16H13Cl2N3O4S
